US09085555B2
A. 2-Chloro-6-fluoro-3′-nitro-1,1′-biphenyl
To a solution of 1-bromo-3-nitrobenzene [585-79-5] (400 mg, 1.98 mmol) and 2-chloro-6-fluorophenylboronic acid [313545-32-3] (414 mg, 2.37 mmol) in dioxane (12 mL) and water (3 mL) was added potassium fluoride (460 mg, 7.92 mmol) and Pd(PPh3)4 (229 mg, 0.20 mmol). The solution was heated for 60 min at 120° C. under microwave irradiation. More 2-chloro-6-fluorophenylboronic acid (414 mg, 2.37 mmol) was added to the mixture followed by heating at 120° C. for 45 min under microwave irradiation. The reaction mixture was then diluted with EtOAc and the resulting solution was washed successively with saturated aqueous NaHCO3 solution and brine, the organics were then dried (Phase separator) and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 50 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to give the title compound. tR (HPLC conditions c): 5.42 min.

reactant | 1-bromo-3-nitrobenzene | 1.98 mmol, 400 mg | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-chloro-6-fluorophenylboronic acid | 2.37 mmol, 414 mg | ClC1=C(C(=CC=C1)F)B(O)O | C6H5BClFO2
reactant | potassium fluoride | 7.92 mmol, 460 mg | [F-].[K+]
reactant | 2-chloro-6-fluorophenylboronic acid | 2.37 mmol, 414 mg | ClC1=C(C(=CC=C1)F)B(O)O | C6H5BClFO2
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.20 mmol, 229 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-6-fluoro-3′-nitro-1,1′-biphenyl | ClC1=C(C(=CC=C1)F)C1=CC(=CC=C1)[N+](=O)[O-] | C12H7ClFNO2
